US07662832B2
In accordance with the same procedures as in Steps 1, 2, and 3 of Preparation 21, except for using phenethylamine and acetyl chloride, 1-methyl-1,2,3,4-tetrahydroisoquinoline was obtained. In accordance with the same procedures as in Preparation 20, the titled compound was obtained as pale yellow oil. (Yield: 91%) The product was used in the subsequent step without further purification.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-methyl-1,2,3,4-tetrahydroisoquinoline | CC1NCCC2=CC=CC=C12 | C10H13N
